US07192970B2
Preparation of dimethyl 4-[2-(6-quinolinoxy)ethoxy]benzylmalonate (Lab Code CS01200304)
To a solution of dimethyl 4-[2-(6-quinolinoxy)ethoxy]benzylidenemalonate (2.23 g, 5.47 mmol) in a mixture of methanol (20 ml) and 1,4-dioxane (150 ml) is added 5% palladium on charcoal (1.20 g). Then the mixture is stirred under an atmosphere of hydrogen at room temperature until hydrogen uptake ceased. The solution is filtered through Celite, and the filtrate is evaporated under a vacuum. The residue is crystallized from ethyl acetate to give the title compound (2.04 g, 90%). HRMS calcd for C23H27NO6: 413.4670. Found: 413.4672. MA calcd for C23H27NO6: C, 66.81%; H, 6.58%; N, 3.39%. Found: C, 66.53%; H, 6.55%; N, 3.36%.

reactant | dimethyl 4-[2-(6-quinolinoxy)ethoxy]benzylidenemalonate | 5.47 mmol, 2.23 g | N1=CC=CC2=CC(=CC=C12)OCCOC1=CC=C(C=C(C(=O)OC)C(=O)OC)C=C1 | C23H21NO6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 1.20 g | [Pd] | Pd
product | dimethyl 4-[2-(6-quinolinoxy)ethoxy]benzylmalonate | 2.04 g, 90% | N1=CC=CC2=CC(=CC=C12)OCCOC1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1 | C23H23NO6
